US04410539
Bromine (1.67 g.) was added dropwise to a stirred solution of 6-acetyl-2-bromo-3-methylbenzo[b]-thiophene (2.50 g.) in a mixture of ether (15 ml.) and dioxan (15 ml.). The solution was stirred for 45 minutes and then diluted with water (100 ml.). The layers were separated and the aqueous layer was washed several times with ethyl acetate. The combined organic layer and extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave a solid which was chromatographed on silica gel. Elution with chloroform gave 2-bromo-6-bromoacetyl-3-methylbenzo[b]thiophene (2.75 g.) pure enough for further reaction. A sample crystallized from ethyl acetate/petrol (b.p. 60°-80°) had m.p. 126°-128° C.

reactant | Bromine | 1.67 g | BrBr | Br2
reactant | 6-acetyl-2-bromo-3-methylbenzo[b]-thiophene | 2.50 g | C(C)(=O)C=1C=CC2=C(SC(=C2C)Br)C1 | C11H9BrOS
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-bromo-6-bromoacetyl-3-methylbenzo[b]thiophene | 2.75 g | BrC1=C(C2=C(S1)C=C(C=C2)C(CBr)=O)C | C11H8Br2OS
